US08975400B2
E1: 5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(3-(trifluoromethyl)phenoxy)benzonitrile
NaH (28.8 mg, 60%, 0.72 mmol) was added to a solution of 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (44 mg, 0.24 mmol) and 5-(hydroxymethyl)-2-(3-(trifluoromethyl)phenoxy)benzonitrile (71 mg, 0.242 mmol) in DMF (1.8 mL). The reaction mixture was stirred at rt for 30 min. Aqueous HCl solution was added to adjust pH to ˜7. Purification by Mass Directed AutoPrep (MDAP) afforded the title compound as a white solid (60 mg, 56% yield).

reactant | NaH | 0.72 mmol, 28.8 mg | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.24 mmol, 44 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | 5-(hydroxymethyl)-2-(3-(trifluoromethyl)phenoxy)benzonitrile | 0.242 mmol, 71 mg | OCC=1C=CC(=C(C#N)C1)OC1=CC(=CC=C1)C(F)(F)F | C15H10F3NO2
reactant | HCl | Cl | ClH
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(3-(trifluoromethyl)phenoxy)benzonitrile | 60 mg, 56% yield | CN1CCN2C(N=C(C=C21)OCC=2C=CC(=C(C#N)C2)OC2=CC(=CC=C2)C(F)(F)F)=O | C22H17F3N4O3
